US05969139
3-Amino-5,5-dimethyl-2-cyclohexen-1-one was reacted with 3-(4-pyridyloxy)-benzaldehyde dimethyl acetal in an analogous manner to that described in Example 1 to give 3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-9-[3-(4-pyridyloxy)-phenyl]-1,8(2H,5H)-acridinedione. Purification by column chromatography on silica gel using dichloromethane/methanol (95:5) as the eluent gave a beige solid of melting point 186-188° C.

reactant | 3-Amino-5,5-dimethyl-2-cyclohexen-1-one | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | 3-(4-pyridyloxy)-benzaldehyde dimethyl acetal | COC(C1=CC(=CC=C1)OC1=CC=NC=C1)OC | C14H15NO3
product | 3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-9-[3-(4-pyridyloxy)-phenyl]-1,8(2H,5H)-acridinedione | CC1(CC(C=2C(C=3C(CC(CC3NC2C1)(C)C)=O)C1=CC(=CC=C1)OC1=CC=NC=C1)=O)C | C28H30N2O3
